US05118865
b. 4,8,8-trimethyl-1-oxaspiro[2.5]oct-4-ene
Prepared under the conditions described in a., starting from 25.0 g (181 mmol) of 2,6,6-trimethyl-2-cyclohexen-1-one, 31.9 g (253 mmol) of (CH3)2SO4, 17.0 g (274 mmol) of (CH3)2S and 43.0 g (1086 mmol) of NaOH in 60 ml of DMSO. 22.09 G of the desired product, 91% pure, were obtained.

reactant | 2,6,6-trimethyl-2-cyclohexen-1-one | 181 mmol, 25.0 g | CC=1C(C(CCC1)(C)C)=O | C9H14O
reactant | (CH3)2SO4 | 253 mmol, 31.9 g | COS(=O)(=O)OC | C2H6O4S
reactant | (CH3)2S | 274 mmol, 17.0 g | S(C)C | C2H6S
reactant | NaOH | 1086 mmol, 43.0 g | [OH-].[Na+]
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 4,8,8-trimethyl-1-oxaspiro[2.5]oct-4-ene | yield 73% | CC=1C2(CO2)C(CCC1)(C)C | C10H16O
